US08859591B2
To a flask containing ethyl 3-(4-(1-(3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)butyl)benzamido)propanoate (117 mg, 0.22 mmol) was added water (0.55 mL), tetrahydrofuran (0.55 mL), and methanol (0.55 mL). Lithium hydroxide monohydrate (508 mg, 12.1 mmol) was then added. The suspension was stirred at room temperature for 18 hours. The reaction was concentrated and acidified to pH=3 with citric acid (10%). A white precipitate formed. The solid was filtered, rinsed with water, and dried under vacuum to give (+/−)-3-(4-(1-(3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)butyl)benzamido)propanoic acid (90 mg, 81%) as a white solid. 1H NMR (400 MHz, CDCl3, δ): 7.88 (s, 1H), 7.73 (d, J=8.2 Hz, 2H), 7.65 (s, 1H), 7.39 (d, J=8.4 Hz, 2H), 6.80 (t, J=5.9 Hz, 1H), 6.56 (s, 2H), 5.16 (dd, J=7.8, 5.1 Hz, 1H), 3.71 (q, J=5.9 Hz, 2H), 2.69 (t, J=5.8 Hz, 2H), 2.04-1.91 (m, 1H), 1.88 (s, 6H), 1.86-1.67 (m, 1H), 1.63-1.31 (m, 2H), 0.96 (t, J=7.3 Hz, 3H). MS (M+1): 504.

reactant | ethyl 3-(4-(1-(3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)butyl)benzamido)propanoate | 0.22 mmol, 117 mg | CC=1C=C(OC(CCC)C2=CC=C(C(=O)NCCC(=O)OCC)C=C2)C=C(C1N1N=CC(=C1)C(F)(F)F)C | C28H32F3N3O4
reactant | water | 0.55 mL | O | H2O
reactant | tetrahydrofuran | 0.55 mL | O1CCCC1 | C4H8O
reactant | Lithium hydroxide monohydrate | 12.1 mmol, 508 mg | O.[OH-].[Li+]
solvent | methanol | 0.55 mL | CO | CH4O
product | (+/−)-3-(4-(1-(3,5-dimethyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)butyl)benzamido)propanoic acid | 90 mg, 81% | CC=1C=C(OC(CCC)C2=CC=C(C(=O)NCCC(=O)O)C=C2)C=C(C1N1N=CC(=C1)C(F)(F)F)C | C26H28F3N3O4
